*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:58:47 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFTRXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFTRXL D SI RN CK Q QN SE
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 2.35236e-16
*|P (D X 0 6.1000 0.6650)
*|I (Mmn1:g Mmn1 g X 0 5.7775 0.4525)
*|I (Mmp1:g Mmp1 g X 0 5.7775 1.0775)
*|S (D:1 5.9250 0.7550)
*|S (D:2 5.7775 0.7550)
C1 Mmp1:g VSS 3.37545e-17
C2 Mmn1:g VSS 3.06361e-17
C3 D:2 VSS 2.50996e-17
C4 D:1 VSS 5.59329e-17
C5 D VSS 8.98133e-17
Rl1 D:1 D:2 60.489433 $W=0.094
Rl2 D:2 Mmn1:g 84.329506 $W=0.039
Rl3 D:2 Mmp1:g 78.560280 $W=0.039
Rk4 D D:1 0.129119 $W=0.1
*
*|NET SI 2.61972e-16
*|P (SI X 0 4.1000 0.8550)
*|I (Mmn12:g Mmn12 g X 0 4.2625 0.3675)
*|I (Mmp12:g Mmp12 g X 0 4.2325 1.2375)
*|S (SI:2 4.2325 0.8500)
*|S (SI:3 4.1600 0.8500)
C6 Mmp12:g VSS 4.59873e-17
C7 Mmn12:g VSS 5.22827e-17
C8 SI:2 VSS 3.53319e-17
C9 SI:3 VSS 1.01846e-16
C10 SI VSS 2.65242e-17
Rl5 SI:2 SI:3 48.118305 $W=0.114
Rl6 Mmn12:g SI:2 154.495819 $W=0.039
Rl7 SI:2 Mmp12:g 102.725746 $W=0.039
Rk8 SI:3 SI 0.035345 $W=0.185
*
*|NET RN 2.06335e-16
*|P (RN X 0 5.7000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 5.5325 0.4525)
*|I (Mmp0:g Mmp0 g X 0 5.5325 1.0775)
*|S (RN:2 5.4950 0.6850)
*|S (RN:4 5.4950 0.6850)
C11 Mmp0:g VSS 4.39077e-17
C12 Mmn0:g VSS 3.28067e-17
C13 RN:2 VSS 1.0082e-16
C14 RN VSS 2.88003e-17
Rl9 RN:2 Mmn0:g 47.309750 $W=0.039
Rl10 Mmp0:g RN:2 95.386673 $W=0.039
Rk11 RN RN:4 0.126330 $W=0.1
Rk12 RN:2 RN:4 45.000000 $W=0.1
*
*|NET CK 2.08249e-16
*|P (CK X 0 1.3000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 1.3475 0.5225)
*|I (Mmp20:g Mmp20 g X 0 1.3475 1.1975)
*|S (CK:2 1.3100 0.8750)
C15 Mmp20:g VSS 3.07421e-17
C16 Mmn20:g VSS 3.77994e-17
C17 CK:2 VSS 6.67821e-17
C18 CK VSS 7.29256e-17
Rl13 CK:2 Mmn20:g 93.463593 $W=0.039
Rl14 Mmp20:g CK:2 68.463593 $W=0.039
Rk15 CK CK:2 45.080956 $W=0.122
*
*|NET Q 1.68612e-16
*|P (Q X 0 0.9000 0.8550)
*|I (Mmn55:d Mmn55 d X 0 1.0025 0.5225)
*|I (Mmp55:d Mmp55 d X 0 0.9625 1.1975)
C19 Mmp55:d VSS 4.91226e-17
C20 Mmn55:d VSS 7.2366e-17
C21 Q VSS 4.71238e-17
Rk16 Mmn55:d Q 75.232498 $W=0.1
Rk17 Q Mmp55:d 62.176579 $W=0.1
*
*|NET QN 7.60536e-17
*|P (QN X 0 0.1000 0.6650)
*|I (Mmn57:d Mmn57 d X 0 0.2975 0.5875)
*|I (Mmp57:d Mmp57 d X 0 0.2975 1.0075)
*|S (QN:3 0.2750 0.6000)
C22 Mmp57:d VSS 1.97875e-17
C23 Mmn57:d VSS 3.41876e-17
C24 QN VSS 2.20786e-17
Rk18 QN:3 QN 0.083125 $W=0.13
Rk19 Mmn57:d QN:3 75.000000 $W=0.1
Rk20 Mmp57:d QN:3 62.224129 $W=0.1
*
*|NET SE 4.34394e-16
*|P (SE X 0 5.3000 0.6650)
*|I (Mmn13:g Mmn13 g X 0 4.4625 0.3675)
*|I (Mmn10:g Mmn10 g X 0 5.3225 0.4525)
*|I (Mmp11:g Mmp11 g X 0 4.6575 1.2375)
*|I (Mmp10:g Mmp10 g X 0 5.2075 1.0775)
*|S (SE:2 5.2950 0.7500)
*|S (SE:3 5.2075 0.7875)
*|S (SE:4 4.6575 0.7875)
C25 Mmp10:g VSS 2.7824e-17
C26 Mmp11:g VSS 3.81274e-17
C27 Mmn10:g VSS 3.04012e-17
C28 Mmn13:g VSS 6.27742e-17
C29 SE:4 VSS 8.64879e-17
C30 SE:3 VSS 2.50255e-17
C31 SE:2 VSS 1.37463e-16
C32 SE VSS 2.6291e-17
Rl21 SE:2 SE:3 17.697128 $W=0.039
Rl22 SE:3 SE:4 208.082443 $W=0.039
Rl23 SE:4 Mmn13:g 180.312775 $W=0.039
Rl24 Mmn10:g SE:2 69.025826 $W=0.039
Rl25 SE:4 Mmp11:g 124.681503 $W=0.039
Rl26 SE:3 Mmp10:g 63.143040 $W=0.039
Rk27 SE SE:2 45.041130 $W=0.13
*
*|NET net436 2.17715e-16
*|I (Mmn57:g Mmn57 g X 0 0.4025 0.5875)
*|I (Mmn56:d Mmn56 d X 0 0.7000 0.5875)
*|I (Mmp57:g Mmp57 g X 0 0.4025 1.0075)
*|I (Mmp56:d Mmp56 d X 0 0.7000 1.0075)
*|S (net436:1 0.4650 0.7600)
*|S (net436:2 0.4025 0.7600)
*|S (net436:6 0.7000 0.7700)
C33 Mmp56:d VSS 3.45705e-17
C34 Mmp57:g VSS 3.15371e-17
C35 Mmn56:d VSS 2.82431e-17
C36 Mmn57:g VSS 3.05474e-17
C37 net436:6 VSS 2.95113e-17
C38 net436:2 VSS 1.2445e-17
C39 net436:1 VSS 5.08603e-17
Rl28 net436:1 net436:2 47.021347 $W=0.094
Rl29 net436:2 Mmn57:g 34.329510 $W=0.039
Rl30 net436:2 Mmp57:g 49.714123 $W=0.039
Rk31 net436:6 net436:1 0.118989 $W=0.1
Rk32 net436:6 Mmn56:d 75.105453 $W=0.1
Rk33 Mmp56:d net436:6 62.117420 $W=0.1
*
*|NET qbint 6.35704e-16
*|I (Mmn56:g Mmn56 g X 0 0.6075 0.5875)
*|I (Mmn55:g Mmn55 g X 0 1.0975 0.5225)
*|I (Mmn45:d Mmn45 d X 0 1.8300 0.5025)
*|I (Mmn50:g Mmn50 g X 0 2.1325 0.5025)
*|I (Mmp56:g Mmp56 g X 0 0.6075 1.0075)
*|I (Mmp55:g Mmp55 g X 0 1.0975 1.1975)
*|I (Mmp45:d Mmp45 d X 0 1.8450 1.0525)
*|I (Mmp50:g Mmp50 g X 0 2.2025 1.0525)
*|S (qbint:2 1.1250 0.7050)
*|S (qbint:3 0.6075 0.7425)
*|S (qbint:8 2.1325 0.6750)
*|S (qbint:9 2.0800 0.6750)
*|S (qbint:11 1.8050 0.6750)
*|S (qbint:13 1.8050 0.5100)
C40 Mmp50:g VSS 4.26357e-17
C41 Mmp45:d VSS 4.41722e-17
C42 Mmp55:g VSS 4.27606e-17
C43 Mmp56:g VSS 2.79789e-17
C44 Mmn50:g VSS 3.86827e-17
C45 Mmn45:d VSS 9.99466e-17
C46 Mmn55:g VSS 2.11506e-17
C47 Mmn56:g VSS 2.70819e-17
C48 qbint:11 VSS 2.9358e-17
C49 qbint:3 VSS 3.82776e-17
C50 qbint:2 VSS 1.38209e-16
C51 qbint:9 VSS 8.54503e-17
Rl34 qbint:2 qbint:3 177.760483 $W=0.039
Rl35 qbint:8 qbint:9 45.516560 $W=0.094
Rl36 qbint:3 Mmn56:g 30.002762 $W=0.039
Rl37 qbint:2 Mmn55:g 24.795059 $W=0.039
Rl38 qbint:8 Mmn50:g 34.329510 $W=0.039
Rl39 qbint:3 Mmp56:g 58.848919 $W=0.039
Rl40 Mmp55:g qbint:2 131.502060 $W=0.039
Rl41 Mmp50:g qbint:8 108.895149 $W=0.039
Rk42 qbint:9 qbint:11 0.177615 $W=0.09
Rk43 qbint:13 qbint:2 45.729774 $W=0.09
Rk44 qbint:11 qbint:13 0.120214 $W=0.1
Rk45 Mmn45:d qbint:13 75.000000 $W=0.1
Rk46 qbint:11 Mmp45:d 62.225132 $W=0.1
*
*|NET CKb 9.41124e-16
*|I (Mmn20:d Mmn20 d X 0 1.4800 0.5225)
*|I (Mmn51:g Mmn51 g X 0 2.3375 0.5025)
*|I (Mmn25:g Mmn25 g X 0 3.5075 0.5025)
*|I (Mmn21:g Mmn21 g X 0 4.0575 0.3675)
*|I (Mmp20:d Mmp20 d X 0 1.4625 1.1975)
*|I (Mmp40:g Mmp40 g X 0 2.7075 1.0525)
*|I (Mmp36:g Mmp36 g X 0 3.3025 1.0525)
*|I (Mmp21:g Mmp21 g X 0 4.0275 1.2375)
*|S (CKb:2 2.3000 0.7150)
*|S (CKb:4 2.6700 1.3500)
*|S (CKb:6 4.0425 0.7100)
*|S (CKb:7 3.5075 0.7125)
*|S (CKb:11 3.3400 1.2600)
*|S (CKb:12 2.6700 1.2200)
*|S (CKb:13 2.2700 1.2000)
*|S (CKb:15 1.4950 1.1500)
C52 Mmp21:g VSS 5.0594e-17
C53 Mmp36:g VSS 5.85682e-17
C54 Mmp40:g VSS 5.34695e-17
C55 Mmp20:d VSS 1.0476e-16
C56 Mmn21:g VSS 3.34965e-17
C57 Mmn25:g VSS 3.01798e-17
C58 Mmn51:g VSS 4.60968e-17
C59 Mmn20:d VSS 6.40154e-17
C60 CKb:13 VSS 8.9717e-17
C61 CKb:12 VSS 6.20795e-17
C62 CKb:7 VSS 7.1774e-17
C63 CKb:6 VSS 6.51886e-17
C64 CKb:2 VSS 7.96197e-17
C65 CKb:4 VSS 3.75847e-17
C66 CKb:11 VSS 9.39808e-17
Rl47 CKb:6 CKb:7 193.595413 $W=0.039
Rl48 Mmn51:g CKb:2 84.617447 $W=0.039
Rl49 CKb:7 Mmn25:g 45.835342 $W=0.039
Rl50 Mmn21:g CKb:6 99.845016 $W=0.039
Rl51 Mmp40:g CKb:4 103.848213 $W=0.039
Rl52 Mmp36:g CKb:11 69.232826 $W=0.039
Rl53 CKb:7 Mmp36:g 139.928162 $W=0.039
Rl54 CKb:6 Mmp21:g 160.998245 $W=0.039
Rk55 CKb:12 CKb:11 0.515001 $W=0.09
Rk56 CKb:4 CKb:12 0.050376 $W=0.125
Rk57 CKb:13 CKb:2 0.316170 $W=0.09
Rk58 CKb:12 CKb:13 0.299643 $W=0.09
Rk59 CKb:13 CKb:15 0.526618 $W=0.09
Rk60 CKb:15 Mmn20:d 75.410675 $W=0.1
Rk61 Mmp20:d CKb:15 62.000000 $W=0.09
*
*|NET n30 3.55331e-16
*|I (Mmn45:g Mmn45 g X 0 1.9375 0.5025)
*|I (Mmn51:d Mmn51 d X 0 2.4800 0.5025)
*|I (Mmp45:g Mmp45 g X 0 1.9375 1.0525)
*|I (Mmp51:d Mmp51 d X 0 2.6050 1.0525)
*|S (n30:3 1.9100 0.3200)
*|S (n30:5 2.4900 0.4900)
C67 Mmp51:d VSS 7.07438e-17
C68 Mmp45:g VSS 5.02332e-17
C69 Mmn51:d VSS 9.13568e-17
C70 Mmn45:g VSS 4.03489e-17
C71 n30:3 VSS 1.02648e-16
Rl62 Mmn45:g n30:3 74.537926 $W=0.039
Rl63 Mmp45:g Mmn45:g 142.307693 $W=0.039
Rk64 n30:3 n30:5 0.450581 $W=0.09
Rk65 Mmn51:d n30:5 75.000000 $W=0.09
Rk66 n30:5 Mmp51:d 62.426880 $W=0.09
*
*|NET net460 4.17447e-18
*|I (Mmn50:d Mmn50 d X 0 2.2350 0.5025)
*|I (Mmn51:s Mmn51 s X 0 2.2350 0.5025)
C72 Mmn50:d VSS 4.17447e-18
Rmw67 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 3.6559e-16
*|I (Mmn40:s Mmn40 s X 0 2.7925 0.5025)
*|I (Mmn35:g Mmn35 g X 0 3.1975 0.5025)
*|I (Mmp40:s Mmp40 s X 0 2.8200 1.0525)
*|I (Mmp35:g Mmp35 g X 0 3.1975 1.0525)
*|S (mout:2 3.1700 0.6850)
*|S (mout:4 2.8100 0.6850)
C73 Mmp35:g VSS 7.63246e-17
C74 Mmp40:s VSS 4.0655e-17
C75 Mmn35:g VSS 5.29132e-17
C76 Mmn40:s VSS 3.73598e-17
C77 mout:4 VSS 5.14224e-17
C78 mout:2 VSS 1.06915e-16
Rl68 mout:2 Mmn35:g 29.537926 $W=0.039
Rl69 Mmp35:g mout:2 87.230232 $W=0.039
Rk70 mout:2 mout:4 45.240280 $W=0.09
Rk71 mout:4 Mmn40:s 75.133850 $W=0.09
Rk72 mout:4 Mmp40:s 62.229698 $W=0.09
*
*|NET CKbb 8.65394e-16
*|I (Mmn40:g Mmn40 g X 0 2.6225 0.5025)
*|I (Mmn36:g Mmn36 g X 0 3.3025 0.5025)
*|I (Mmn21:d Mmn21 d X 0 3.9650 0.3675)
*|I (Mmp51:g Mmp51 g X 0 2.5025 1.0525)
*|I (Mmp25:g Mmp25 g X 0 3.5275 1.0525)
*|I (Mmp21:d Mmp21 d X 0 3.9350 1.2375)
*|S (CKbb:2 2.6500 0.6850)
*|S (CKbb:5 3.3300 0.2100)
*|S (CKbb:7 3.5650 0.8450)
*|S (CKbb:9 3.5950 0.3250)
*|S (CKbb:10 3.3300 0.3250)
C79 Mmp21:d VSS 8.53303e-17
C80 Mmp25:g VSS 4.65109e-17
C81 Mmp51:g VSS 4.53422e-17
C82 Mmn21:d VSS 4.14715e-17
C83 Mmn36:g VSS 8.09507e-17
C84 Mmn40:g VSS 2.25269e-17
C85 CKbb:10 VSS 9.07406e-17
C86 CKbb:9 VSS 6.2803e-17
C87 CKbb:2 VSS 1.58756e-16
C88 CKbb:5 VSS 5.5588e-17
C89 CKbb:7 VSS 1.75374e-16
Rl73 Mmn40:g CKbb:2 27.970394 $W=0.039
Rl74 Mmn36:g CKbb:5 116.845619 $W=0.039
Rl75 CKbb:2 Mmp51:g 104.695190 $W=0.039
Rl76 Mmp25:g CKbb:7 69.232826 $W=0.039
Rk77 CKbb:7 CKbb:9 0.423400 $W=0.08
Rk78 CKbb:10 CKbb:5 0.042859 $W=0.125
Rk79 CKbb:10 CKbb:2 45.739887 $W=0.09
Rk80 CKbb:9 CKbb:10 0.212459 $W=0.09
Rk81 CKbb:9 Mmn21:d 75.249458 $W=0.09
Rk82 Mmp21:d CKbb:7 62.547745 $W=0.09
*
*|NET n20 3.23864e-16
*|I (Mmn30:g Mmn30 g X 0 2.9625 0.5025)
*|I (Mmn36:d Mmn36 d X 0 3.4050 0.5025)
*|I (Mmp30:g Mmp30 g X 0 2.9325 1.0525)
*|I (Mmp36:d Mmp36 d X 0 3.4150 1.0525)
*|S (n20:2 3.0000 0.8450)
*|S (n20:5 3.3900 0.8450)
C90 Mmp36:d VSS 3.19627e-17
C91 Mmp30:g VSS 3.71361e-17
C92 Mmn36:d VSS 5.97262e-17
C93 Mmn30:g VSS 3.98549e-17
C94 n20:5 VSS 6.13693e-17
C95 n20:2 VSS 9.38152e-17
Rl83 Mmn30:g n20:2 89.617439 $W=0.039
Rl84 n20:2 Mmp30:g 38.085014 $W=0.039
Rk85 n20:5 n20:2 45.257019 $W=0.09
Rk86 n20:5 Mmn36:d 75.199799 $W=0.11
Rk87 Mmp36:d n20:5 62.124386 $W=0.09
*
*|NET net452 0
*|I (Mmn35:d Mmn35 d X 0 3.2500 0.5025)
*|I (Mmn36:s Mmn36 s X 0 3.2500 0.5025)
Rmw88 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET Dbp 4.42914e-16
*|I (Mmn25:d Mmn25 d X 0 3.6725 0.5025)
*|I (Mmn13:d Mmn13 d X 0 4.5900 0.3675)
*|I (Mmp25:s Mmp25 s X 0 3.6675 1.0525)
*|I (Mmp13:d Mmp13 d X 0 4.5550 1.2375)
*|S (Dbp:2 4.3200 1.0950)
*|S (Dbp:4 3.7250 1.0650)
C96 Mmp13:d VSS 4.54631e-17
C97 Mmp25:s VSS 1.04835e-16
C98 Mmn13:d VSS 1.04148e-16
C99 Mmn25:d VSS 6.90223e-17
C100 Dbp:2 VSS 1.19446e-16
Rk89 Dbp:2 Dbp:4 0.426262 $W=0.08
Rk90 Dbp:4 Mmn25:d 75.395004 $W=0.09
Rk91 Mmn13:d Dbp:2 75.670853 $W=0.08
Rk92 Mmp25:s Dbp:4 62.000000 $W=0.08
Rk93 Dbp:2 Mmp13:d 62.239243 $W=0.09
*
*|NET net484 0
*|I (Mmn12:d Mmn12 d X 0 4.3625 0.3675)
*|I (Mmn13:s Mmn13 s X 0 4.3625 0.3675)
Rmw94 Mmn13:s Mmn12:d 0.001000 $W=1
*
*|NET Db 5.94969e-16
*|I (Mmn11:d Mmn11 d X 0 4.8425 0.3675)
*|I (Mmn1:d Mmn1 d X 0 5.8700 0.4525)
*|I (Mmp11:s Mmp11 s X 0 4.7500 1.2375)
*|I (Mmp0:d Mmp0 d X 0 5.6550 1.0775)
*|S (Db:3 5.6750 1.0300)
*|S (Db:5 4.7600 1.1900)
C101 Mmp0:d VSS 2.03734e-16
C102 Mmp11:s VSS 1.32345e-16
C103 Mmn1:d VSS 1.26017e-16
C104 Mmn11:d VSS 1.32873e-16
Rk95 Db:3 Db:5 0.779703 $W=0.08
Rk96 Db:5 Mmn11:d 75.784309 $W=0.08
Rk97 Mmn1:d Db:3 76.195572 $W=0.08
Rk98 Mmp11:s Db:5 62.000000 $W=0.08
Rk99 Mmp0:d Db:3 62.000000 $W=0.08
*
*|NET SEb 6.52743e-16
*|I (Mmn11:g Mmn11 g X 0 4.7175 0.3675)
*|I (Mmn10:d Mmn10 d X 0 5.2300 0.4525)
*|I (Mmp13:g Mmp13 g X 0 4.4525 1.2375)
*|I (Mmp10:d Mmp10 d X 0 5.1150 1.0775)
*|S (SEb:2 4.4800 0.9050)
*|S (SEb:4 4.7550 0.6550)
*|S (SEb:7 5.2200 0.4400)
C105 Mmp10:d VSS 1.00942e-16
C106 Mmp13:g VSS 4.14851e-17
C107 Mmn10:d VSS 1.62385e-16
C108 Mmn11:g VSS 3.66117e-17
C109 SEb:2 VSS 1.01743e-16
C110 SEb:4 VSS 2.09577e-16
Rl100 Mmn11:g SEb:4 113.463593 $W=0.039
Rl101 Mmp13:g SEb:2 118.768692 $W=0.039
Rk102 SEb:4 SEb:2 0.323611 $W=0.08
Rk103 SEb:7 SEb:4 0.872093 $W=0.08
Rk104 Mmn10:d SEb:7 75.000000 $W=0.08
Rk105 Mmp10:d SEb:7 62.527512 $W=0.08
*
*|NET net476 0
*|I (Mmn0:d Mmn0 d X 0 5.6550 0.4525)
*|I (Mmn1:s Mmn1 s X 0 5.6550 0.4525)
Rmw106 Mmn1:s Mmn0:d 0.001000 $W=1
*
*|NET net395 4.07614e-18
*|I (Mmp50:d Mmp50 d X 0 2.3525 1.0525)
*|I (Mmp51:s Mmp51 s X 0 2.3525 1.0525)
C111 Mmp50:d VSS 4.07614e-18
Rmw107 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET net375 4.79291e-20
*|I (Mmp35:d Mmp35 d X 0 3.2500 1.0525)
*|I (Mmp36:s Mmp36 s X 0 3.2500 1.0525)
C112 Mmp35:d VSS 4.79291e-20
Rmw108 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET net411 0
*|I (Mmp12:d Mmp12 d X 0 4.3425 1.2375)
*|I (Mmp13:s Mmp13 s X 0 4.3425 1.2375)
Rmw109 Mmp13:s Mmp12:d 0.001000 $W=1
*
*Instance Section
*
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02393P	AS=0.05335P	PD=0.62U	PS=1.62U
+ fw=1.45e-07 sa=1.65e-07 sb=3.45e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.05335P	PD=0.57U	PS=1.62U
+ fw=1.45e-07 sa=3.7e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02103P	AS=0.05663P	PD=0.58U	PS=1.58U
+ fw=1.45e-07 sa=1.45e-07 sb=4.7e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0319P	AS=0.05663P	PD=0.73U	PS=1.58U
+ fw=1.45e-07 sa=3.95e-07 sb=2.2e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02465P	AS=0.04765P	PD=0.63U	PS=1.43U
+ fw=1.45e-07 sa=1.7e-07 sb=1.855e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.04765P	PD=0.61U	PS=1.43U
+ fw=1.45e-07 sa=3.65e-07 sb=1.66e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0348P	AS=0.0232P	PD=0.77U	PS=0.61U
+ fw=1.45e-07 sa=5.7e-07 sb=1.455e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn40	Mmn51:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0348P	AS=0.04278P	PD=0.77U	PS=0.88U
+ fw=1.45e-07 sa=8.55e-07 sb=1.17e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn30	Mmn40:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04278P	AS=0.05345P	PD=0.88U	PS=1.51U
+ fw=1.45e-07 sa=1.195e-06 sb=8.3e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.05345P	PD=0.41U	PS=1.51U
+ fw=1.45e-07 sa=1.43e-06 sb=5.95e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=1.535e-06 sb=4.9e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn25	Mmn25:d	Mmn25:g	Mmn36:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04133P	AS=0.0232P	PD=0.86U	PS=0.61U
+ fw=1.45e-07 sa=1.74e-06 sb=2.85e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=8.65e-07 sca=7.79977 scb=0.00524357 scc=6.87485e-05
Mmn12	Mmn12:d	Mmn12:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02248P	AS=0.0232P	PD=0.6U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=6.6e-07 sca=7.79977 scb=0.00524357 scc=6.87485e-05
Mmn13	Mmn13:d	Mmn13:g	Mmn13:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03045P	AS=0.02248P	PD=0.71U	PS=0.6U
+ fw=1.45e-07 sa=5.45e-07 sb=4.6e-07 sca=7.79977 scb=0.00524357 scc=6.87485e-05
Mmn11	Mmn11:d	Mmn11:g	Mmn13:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02973P	AS=0.03045P	PD=0.7U	PS=0.71U
+ fw=1.45e-07 sa=8e-07 sb=2.05e-07 sca=7.79977 scb=0.00524357 scc=6.87485e-05
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02392P	PD=0.57U	PS=0.62U
+ fw=1.45e-07 sa=1.4e-07 sb=5.95e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.029P	AS=0.02392P	PD=0.69U	PS=0.62U
+ fw=1.45e-07 sa=3.5e-07 sb=3.85e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.029P	PD=0.57U	PS=0.69U
+ fw=1.45e-07 sa=5.95e-07 sb=1.4e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmp57	Mmp57:d	Mmp57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03548P	AS=0.0344P	PD=0.76U	PS=0.75U
+ fw=2.15e-07 sa=1.65e-07 sb=3.45e-07 sca=49.5197 scb=0.0328493 scc=0.0059298
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=3.7e-07 sb=1.4e-07 sca=47.0806 scb=0.0291408 scc=0.00588526
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04837P	AS=0.04408P	PD=0.88U	PS=0.84U
+ fw=2.15e-07 sa=2.25e-07 sb=4.35e-07 sca=12.1244 scb=0.0107968 scc=0.000332109
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03977P	AS=0.04407P	PD=0.8U	PS=0.84U
+ fw=2.15e-07 sa=4.75e-07 sb=1.85e-07 sca=12.1244 scb=0.0107968 scc=0.000332109
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0761P	PD=0.71U	PS=1.35U
+ fw=2.15e-07 sa=1.4e-07 sb=1.825e-06 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05483P	AS=0.0761P	PD=0.94U	PS=1.35U
+ fw=2.15e-07 sa=4.05e-07 sb=1.56e-06 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.05482P	PD=0.75U	PS=0.94U
+ fw=2.15e-07 sa=7.05e-07 sb=1.26e-06 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0387P	PD=0.75U	PS=0.79U
+ fw=2.15e-07 sa=9.1e-07 sb=1.055e-06 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0387P	AS=0.1037P	PD=0.79U	PS=1.81U
+ fw=2.15e-07 sa=1.135e-06 sb=8.3e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.1037P	PD=0.55U	PS=1.81U
+ fw=2.15e-07 sa=1.4e-06 sb=5.65e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0387P	AS=0.0129P	PD=0.79U	PS=0.55U
+ fw=2.15e-07 sa=1.505e-06 sb=4.6e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp25	Mmp36:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0387P	AS=0.05052P	PD=0.79U	PS=0.9U
+ fw=2.15e-07 sa=1.73e-06 sb=2.35e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=7.7e-07 sca=11.0038 scb=0.00893072 scc=0.000173706
Mmp12	Mmp12:d	Mmp12:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.0344P	PD=0.78U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=5.65e-07 sca=11.0038 scb=0.00893072 scc=0.000173706
Mmp13	Mmp13:d	Mmp13:g	Mmp13:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.03762P	PD=0.75U	PS=0.78U
+ fw=2.15e-07 sa=5.65e-07 sb=3.45e-07 sca=11.0038 scb=0.00893072 scc=0.000173706
Mmp11	Mmp13:d	Mmp11:g	Mmp11:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=7.7e-07 sb=1.4e-07 sca=11.0038 scb=0.00893072 scc=0.000173706
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0944P	PD=0.71U	PS=1.56U
+ fw=2.15e-07 sa=1.4e-07 sb=7.1e-07 sca=21.9815 scb=0.0208641 scc=0.00225088
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.043P	AS=0.0944P	PD=0.83U	PS=1.56U
+ fw=2.15e-07 sa=4.65e-07 sb=3.85e-07 sca=22.1877 scb=0.0209143 scc=0.00225089
Mmp1	Mmp0:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.043P	AS=0.0301P	PD=0.83U	PS=0.71U
+ fw=2.15e-07 sa=7.1e-07 sb=1.4e-07 sca=23.1737 scb=0.0215726 scc=0.00225171
.ENDS
.END
